US07994185B2
N-{3-[2-(1,1-Dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
To a suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (200 mg, 0.371 mmol) and tetrakis(triphenylphoshine)palladium (8.6 mg, 7.4 μmol) in THF (5 mL) was added a 2 M solution of methylzinc chloride in THF (0.371 mL, 0.742 mmol). The suspension was stirred for 16 h at 60° C. The reaction mixture was partitioned between water and EtOAc, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and purified via column chromatography, eluting with 0-100% EtOAc/DCM. The desired fractions were combined and concentrated to generate 90 mg (0.174 mmol, 46.8% yield) of the title compound as a white powder. 1H NMR (400 MHz, DMSO-d6): δ 10.75 (s, 1H), 8.47 (d, J=5.3 Hz, 1H), 7.52-7.58 (m, 1H), 7.40-7.50 (m, 4H), 7.29 (t, J=7.8 Hz, 1H), 6.64 (d, J=5.3 Hz, 1H), 2.58 (s, 3H), 1.42 (s, 9H). MS (ESI): 520.0 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.371 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | methylzinc chloride | [Cl-].C[Zn+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.742 mmol, 0.371 mL | C1CCOC1 | C4H8O
product | N-{3-[2-(1,1-Dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.174 mmol, 90 mg, 46.8% yield | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)C | C24H21F3N4O2S2
